US06166028
(3-Chloro-4-vinyl-phenyl)-carbamic acid2-trimethylsilanyl-ethyl ester
To a solution of 3-chloro-4-vinyl-phenylamine (3.4 g) in N,N-dimethylformamide (44 mL) containing diisopropylethylamine (5.8 mL) is added 1-[2-(trimethylsilyl)-ethoxycarbonyl-oxy]benzotriazole (7.1 g) and the mixture is stirred at room temperature under an atmosphere of argon for three days. The solution is then diluted with water and extracted three times with diethyl ether. The combined organic extracts are washed successively with water, saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue is chromatographed over silica gel (10% ethyl acetate in hexanes is used as the eluant) to provide the desired product as a yellow oil.

reactant | 3-chloro-4-vinyl-phenylamine | 3.4 g | ClC=1C=C(C=CC1C=C)N | C8H8ClN
reactant | diisopropylethylamine | 5.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[2-(trimethylsilyl)-ethoxycarbonyl-oxy]benzotriazole | 7.1 g | C[Si](CCOC(=O)ON1N=NC2=C1C=CC=C2)(C)C | C12H17N3O3Si
solvent | N,N-dimethylformamide | 44 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-Chloro-4-vinyl-phenyl)-carbamic acid2-trimethylsilanyl-ethyl ester | C[Si](CCOC(NC1=CC(=C(C=C1)C=C)Cl)=O)(C)C | C14H20ClNO2Si
